US05624950
To a solution of 1.49 g of (3aRS,4RS,7aRS)-7,7-dimethyl-4-(2-methoxyphenyl)-2-t -butyloxycarbonyl-4-perhydroisoindolol in 21 cm3 of dioxane are added 35 cm3 of 7.4 N hydrochloric acid solution in dioxane. The reaction mixture is stirred for 1 hour at room temperature and then concentrated to dryness under reduced pressure (2.7 kPa). 1.47 g of (3aRS,4RS,7aRS)-7,7-dimethyl-4-(2-methoxyphenyl)-4-perhydroisoindolol hydrochloride are obtained in the form of a white foam.

reactant | (3aRS,4RS,7aRS)-7,7-dimethyl-4-(2-methoxyphenyl)-2-t -butyloxycarbonyl-4-perhydroisoindolol | 1.49 g | CC1(CCC(C2CN(CC12)C(=O)OC(C)(C)C)(O)C1=C(C=CC=C1)OC)C | C22H33NO4
reactant | hydrochloric acid | 7.4 N, 35 cm3 | Cl | ClH
solvent | dioxane | 21 cm3 | O1CCOCC1 | C4H8O2
product | (3aRS,4RS,7aRS)-7,7-dimethyl-4-(2-methoxyphenyl)-4-perhydroisoindolol hydrochloride | 1.47 g | Cl.CC1(CCC(C2CNCC12)(O)C1=C(C=CC=C1)OC)C | InChI=1S/C17H25NO2.ClH/c1-16(2)8-9-17(19,14-11-18-10-13(14)16)12-6-4-5-7-15(12)20-3;/h4-7,13-14,18-19H,8-11H2,1-3H3;1H
